*************************************
* nTron                             *
*************************************
.subckt ntron g d s
+ params: width_g=12n
+ width_s=200n width_d=200n width_c=108n
+ sq_g=22 sq_d=200 sq_s=22 sq_c=10 thickness=4n
+ sheetRes=400 Tc=10.5 Tsub=4 Jc=46G C=1 A1=0.4
*Jc at T=Tsub in units of amps/m2
*sheetRes has units of ohms/sq
*Tc is critical temp and has units of K
*Tsub is substrate temp and has units of K
*C is constrition factor

*Critical currents
.PARAM Isw_g={Jc*width_g*thickness*C}
.PARAM Isw_d={Jc*width_d*thickness*C}
.PARAM Isw_s={Jc*width_s*thickness*C}
.PARAM Isw_c={Jc*width_c*thickness*C}

*Thermal Parameters
.PARAM kappa = 2.44e-8*Tc/(sheetRes*thickness);
* thermal conductivity W/m K
.PARAM heatCapacity = 4400
* heat capacity J/m^3 K
.PARAM hc = 50k
* thermal conductivity of surface W/m^2 K

*Electrical/Superconducting Parameters
.PARAM inductivity = {1.38p*sheetRes/Tc}
* H/square

.PARAM Lind_g = {inductivity*sq_g}
.PARAM Lind_d = {inductivity*sq_d}
.PARAM Lind_s = {inductivity*sq_s}
.PARAM Lind_c = {inductivity*sq_c}

* Maximum impedance of inductor, helps with solver convergence
.PARAM Ind_Z_max = 1e6
* ohms set to a few orders of magnitude above the largest expected
* impedance as calculated by Lind_x*2*pi*f_max where f_max = 0.31/t_rise_min
* is the maximum frequency in Hz based on the fastest dynamics of the
* circuit in seconds
* For normal nTron inductors (e.g. 200 squares of 20pH/sq), a rise time of
* 10ps gives about 1kohm max impedance, so 1e6 is acceptable

.PARAM  minSquares = {1/sheetRes}
* # squares for minimum resistance
* Normal resistances
.PARAM Rnorm_g = {sheetRes*sq_g}
.PARAM Rnorm_d = {sheetRes*sq_d}
.PARAM Rnorm_s = {sheetRes*sq_s}
.PARAM Rnorm_c = {sheetRes*sq_c}

* units of ohms/square
.PARAM psi={sheetRes*(Jc*thickness)**2/
+(hc*(Tc-Tsub))}
* psi is the Stekly parameter.
.PARAM vo={1*sqrt(hc*kappa/thickness)/
+heatCapacity}
* vo is characteristic velocity

.PARAM Ihs_g={sqrt(2/psi)*Isw_g}
.PARAM Ihs_s={sqrt(2/psi)*Isw_s}
.PARAM Ihs_c={sqrt(2/psi)*Isw_c}

.PARAM Vthresh_g={minSquares*sheetRes*Ihs_g}
.PARAM Vthresh_s={minSquares*sheetRes*Ihs_s}
.PARAM Vthresh_c={minSquares*sheetRes*Ihs_c}

*Unitless Parameters
.PARAM delta={0.01}
* a small offset value for avoiding
* singularity in hotspot velocity

*Gate switching parameters
.PARAM beta = 12.82e-6

*********************************************************************************


** MAIN CIRCUIT GATE **
* inductor
Lg g N_g_int Flux=((1-(v(N_g_res)/{Rnorm_g})+0.001)*{Lind_g}/(2*cos((2/3)*
+asin((0.6*abs(x))/{Isw_g}))-1))*x Rser = 1e-100 Rpar = {Ind_Z_max}

* hotspot resistor
B_Rg N_g_int center V=if(v(N_g_res)>0,v(N_g_res)*i(B_Rg),0)
* v(N_g_res) is resistance of hotspot

** S/C SENSE SUBCIRCUIT **
**Superconducting to Resistive Transition
*dependent source used to store state
B_g_state N_g_state 0 V=if((abs(i(Lg))>{Isw_g})|(abs(v(N_g_int)-v(center))>{Vthresh_g}),1,0)
R_g_state N_g_state 0 1
* v(N_g_state) is 0 if wire s/c, 1 if not

** HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT **
*dependent current source that represents
*hotspot S-N boundary velocity

B_g_hotspot N_g_res 0 V=sdt(if(v(N_g_state) & v(N_g_res)<{Rnorm_g},
+(2*sheetRes*vo/width_g)*
+(psi*(i(Lg)/{Isw_g})**2-2)
+/((sqrt((({psi}*(i(Lg)/{Isw_g})**2-1)+abs({psi}*(i(Lg)/{Isw_g})**2-1))/2)+{delta})),0),
+0, V(N_g_state)<0.5)

*********************************************************************************
** MODULATION OF CHANNEL CRITICAL CURRENT **

R_Isw_suppress N_Isw_channel 0 1

B_Isw_suppress 0 N_Isw_channel I=if(abs(i(Lg))>{Isw_g} ,
+{A1}*exp(-(abs(i(Lg))-{Isw_g})/{beta}),1)


*********************************************************************************


** MAIN CIRCUIT SOURCE **
* inductor
Ls s N_s_int Flux=((1-(v(N_s_res)/{Rnorm_s})+0.001)*{Lind_s}
+/(2*cos((2/3)*asin((0.6*abs(x))/{Isw_s}))-1))*x Rser = 1e-100 Rpar = {Ind_Z_max}

* hotspot resistor
B_Rs N_s_int center V=if(v(N_s_res)>0, v(N_s_res)*i(B_Rs), 0)
* v(N_s_res) is resistance of hotspot

** S/C SENSE SUBCIRCUIT **
**Superconducting to Resistive Transition
*dependent source used to store state
B_s_state N_s_state 0 V=if((abs(i(Ls))>{Isw_c}*abs(i(R_Isw_suppress)) )
+|(abs(v(N_s_int)-v(center))>{Vthresh_s}),1,0)
R_s_state N_s_state 0 1
* v(N_s_state) is 0 if wire s/c, 1 if not

** HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT **
*dependent current source that represents
*hotspot S-N boundary velocity
B_s_hotspot N_s_res 0 V=sdt(if(v(N_s_state) & v(N_s_res)<{Rnorm_s},
+(2*sheetRes*vo/width_s)*
+(psi*(i(Ls)/{Isw_s})**2-2)
+/((sqrt((({psi}*(i(Ls)/{Isw_s})**2-1)+abs({psi}*(i(Ls)/{Isw_s})**2-1))/2)+{delta})),0),
+0, V(N_s_state)<0.5)


*********************************************************************************


** MAIN CIRCUIT DRAIN AND CHANNEL **


* inductors
Ld d N_d_int  Flux=((1.001-(v(N_d_res)/{Rnorm_d}))*{Lind_d}
+/(2*cos((2/3)*asin((0.6*abs(x))/{Isw_d}))-1))*x
+Rser = 1e-100 Rpar = {Ind_Z_max}

Lc N_d_int N_c_int  Flux=((1.001-(v(N_c_res)/{Rnorm_c}))*{Lind_c}
+/(2*cos((2/3)*asin((0.6*abs(x))/{Isw_c}))-1))*x
+Rser = 1e-100 Rpar = {Ind_Z_max}


* hotspot resistor
B_Rc N_c_int center V=if((v(N_c_res) + v(N_d_res))>0, (v(N_c_res) + v(N_d_res))*i(B_Rc), 0)
  * v(N_c_res) is resistance of hotspot

** S/C SENSE SUBCIRCUIT **

**Superconducting to Resistive Transition

*dependent source used to store state
B_c_state N_c_state 0 V=if((abs(i(Ld))>{Isw_c}*abs(i(R_Isw_suppress)))
+|(abs(v(N_c_int)-v(center))>{Vthresh_c}),1,0)
R_c_state N_c_state 0 1
  * v(N_c_state) is 0 if wire s/c, 1 if not

** HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT **
*dependent current sources that represent
*hotspot S-N boundary velocity

B_c_hotspot N_c_res 0 V=sdt(if(v(N_c_state) & v(N_c_res)<{Rnorm_c},
+(2*sheetRes*vo/width_c)*
+(psi*(i(Lc)/{Isw_c})**2-2)
+/((sqrt((({psi}*(i(Lc)/{Isw_c})**2-1)+abs({psi}*(i(Lc)/{Isw_c})**2-1))/2)+{delta})),0),
+0, V(N_c_state)<0.5)

B_d_hotspot N_d_res 0 V=sdt(if(v(N_c_state) & v(N_c_res)>{Rnorm_c} & v(N_d_res)<{Rnorm_d},
+(2*sheetRes*vo/width_d)*
+(psi*(i(Ld)/{Isw_d})**2-2)
+/((sqrt((({psi}*(i(Ld)/{Isw_d})**2-1)+abs({psi}*(i(Ld)/{Isw_d})**2-1))/2)+{delta})),0),
+0, V(N_c_state)<0.5)

.ends ntron
*$
